US05302720
3'-Methylthio-2-nitrobiphenyl (8 g) was heated at 90°-95° C. for 5 hours with hydrated sodium sulphide (15.6 g) and ethanol (200 ml) to give 2-amino-3'-methylthiobiphenyl (m.p. 114°-115° C.) as a brown oil which was converted into its hydrochloride salt.

reactant | 3'-Methylthio-2-nitrobiphenyl | 8 g | CSC=1C=C(C=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO2S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-amino-3'-methylthiobiphenyl | NC1=C(C=CC=C1)C1=CC(=CC=C1)SC | C13H13NS
